US05136090
To 5 ml of a DMF solution containing 200 mg (0.5181 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 716.7 μl (5.181 mmol) of 2-fluoro-4-bromobenzylbromide, there was added 85.8 mg (0.6217 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated for 1 hour at room temperature. The reaction mixture was filtered by suction through Celite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, water and aequeous sodium bicarbonate, water and aqueous sodium cholride solution in this sequene and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 50 g of WAKO-gel C-200, eluent: toluene and toluene/ethyl acetate of 100/1 and 50/1) to obtain 212.4 mg (0.3706 mmol, 72%) of 2-(2-fluoro-4-bromobenzyloxy)-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl as an oily product.

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.5181 mmol, 200 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | 2-fluoro-4-bromobenzylbromide | 5.181 mmol, 716.7 μl | FC1=C(CBr)C=CC(=C1)Br | C7H5Br2F
reactant | potassium carbonate | 0.6217 mmol, 85.8 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(2-fluoro-4-bromobenzyloxy)-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.3706 mmol, 212.4 mg, 72% | FC1=C(COC2=C(C=C(C=C2)CCC(=O)OCC)C2=C(C=CC(=C2)CCC(=O)OCC)O)C=CC(=C1)Br | C29H30BrFO6
